US07915267B2
3-[(2-chloroethyl)oxy]benzonitrile
A suspension of 3-hydroxybenzonitrile (5.00 g, 42.0 mmol), 1-bromo-2-chloroethane (9.00 g, 62.8 mmol) and potassium hydroxide (2.5 g, 44.6 mmol) in ethanol (100 mL) was stirred at 90° C. for 24 hr. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with diethyl ether and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The obtained oil was purified by silica gel column chromatography (2%-50% ethyl acetate/hexane) to give the title compound as a colorless oil (1.39 g, 18%).

reactant | 3-hydroxybenzonitrile | 42.0 mmol, 5.00 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 1-bromo-2-chloroethane | 62.8 mmol, 9.00 g | BrCCCl | C2H4BrCl
reactant | potassium hydroxide | 44.6 mmol, 2.5 g | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[(2-chloroethyl)oxy]benzonitrile | 1.39 g, 18% | ClCCOC=1C=C(C#N)C=CC1 | C9H8ClNO
